US08217066B2
Step 2: N-(1-{4′-[4-((E)-2,2-Difluoro-1-hydroxy-4-phenyl-but-3-enyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarbonyl)-methanesulfonamide:
Prepared according to the procedure described in Example 110, Step 3, using (E)-1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-2,2-difluoro-4-phenyl-but-3-en-1-ol and N-{1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarbonyl}-methanesulfonamide.

reactant | (E)-1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-2,2-difluoro-4-phenyl-but-3-en-1-ol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(C(\C=C\C1=CC=CC=C1)(F)F)O | C20H16BrF2NO2
reactant | N-{1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarbonyl}-methanesulfonamide | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C)C | C17H24BNO5S
product | N-(1-{4′-[4-((E)-2,2-Difluoro-1-hydroxy-4-phenyl-but-3-enyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarbonyl)-methanesulfonamide | FC(C(O)C=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C)C)(\C=C\C1=CC=CC=C1)F | C31H28F2N2O5S
